US05013760
(a) Racemic and meso (R*S*)-N,N'-hexamethylene-bis-[2,3-bis (phenylmethoxy)bicyclo-[4.2.0]-octa-1,3,5-triene-7carboxamide]
2,3-Bis-(phenylmethoxy)-bicyclo-[4.2.0]-octa-1,3,5-triene-7-carboxylic acid (0.72 g) was dissolved in dry dichloromethane (40 ml) and cooled to -5° and triethylamine (0.31 ml) added. To this was added a solution of ethyl chloroformate (0.19 ml) in dry dichloromethane (2 ml) dropwise over 10 minutes. The solution was stirred at -5° for 1 hour and hexane-1,6-diamine (0.11 g) added and the mixture warmed to room temperature for 4 hours. The reaction mixture was washed with water, 2N hydrochloric acid, 2N sodium hydroxide solution and brine dried (Na2SO4) and evaporated. The residue was recrystallised from ethanol affording the purified bis amide (0.43 g) mp 155°-9°.

reactant | 2,3-Bis-(phenylmethoxy)-bicyclo-[4.2.0]-octa-1,3,5-triene-7-carboxylic acid | 0.72 g | C1(=CC=CC=C1)COC1=C2CC(C2=CC=C1OCC1=CC=CC=C1)C(=O)O | C23H20O4
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.19 ml | ClC(=O)OCC | C3H5ClO2
reactant | hexane-1,6-diamine | 0.11 g | C(CCCCCN)N | C6H16N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N,N'-hexamethylene-bis-[2,3-bis (phenylmethoxy)bicyclo-[4.2.0]-octa-1,3,5-triene-7carboxamide] | C1(=CC=CC=C1)COC1=C2CC(C2=CC=C1OCC1=CC=CC=C1)C(=O)NCCCCCCNC(=O)C1C2=CC=C(C(=C2C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C52H52N2O6
